US06509328B1
4-(3-Imidazol-1-yl-phenyl)-8-phenyl-1,3-dihydro-benzo [b][1,4]diazepin-2-one
Prepared from {3-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester (Example K34) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light yellow solid (125 mg).

reactant | {3-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=CC=C1)NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)=O | C29H28N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-Imidazol-1-yl-phenyl)-8-phenyl-1,3-dihydro-benzo [b][1,4]diazepin-2-one | 125 mg | N1(C=NC=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C2=CC=CC=C2 | C24H18N4O
